US04036979
Similarly, the salt of (+)-4,5,6,7-tetrahydrobenzo[b]thiophen-4-amine and (S)-(-)-N-benzoyl glutamic acid is treated in the above manner to afford (+)-4,5,6,7-tetrahydrobenzo[b]thien-4-ylurea, melting point 218° C. to 220° C.; [α]589 25 +60° , [α]436 +149.8° , [α]365 +272.5°.

reactant | (+)-4,5,6,7-tetrahydrobenzo[b]thiophen-4-amine | S1C2=C(C=C1)C(CCC2)N | C8H11NS
reactant | (S)-(-)-N-benzoyl glutamic acid | C(C1=CC=CC=C1)(=O)N[C@@H](CCC(=O)O)C(=O)O | C12H13NO5
product | (+)-4,5,6,7-tetrahydrobenzo[b]thien-4-ylurea | S1C2=C(C=C1)C(CCC2)NC(=O)N | C9H12N2OS
